US08097759B2
N-[3,5-Bis(trifluoromethyl)phenyl]-6-chloro-2-hydroxyindole-3-carboxamide (Compound No. 28)
Under argon atmosphere, 3,5-bis(trifluoromethyl)isocyanate (255 mg, 1.0 mmol) was dissolved in tetrahydrofuran (5 mL). A solution of 6-chloro-oxindole (184 mg, 1.1 mmol) in tetrahydrofuran (5 ml) and triethylamine (0.3 mL) were added, and the mixture was stirred at room temperature for 4 hours. The reaction mixture was poured into diluted hydrochloric acid and extracted with ethyl acetate. After the organic layer was washed with water and brine, dried over anhydrous magnesium sulfate, the residue obtained by evaporation under reduced pressure was purified by chromatography on silica gel (n-hexane:ethyl acetate=4:1) to give the title compound (172.2 mg, 40.7%) as a pink solid.

reactant | 3,5-bis(trifluoromethyl)isocyanate | 1.0 mmol, 255 mg | C1=C(C=C(C=C1C(F)(F)F)N=C=O)C(F)(F)F | C9H3F6NO
reactant | 6-chloro-oxindole | 1.1 mmol, 184 mg | ClC1=CC=C2CC(NC2=C1)=O | C8H6ClNO
reactant | hydrochloric acid | Cl | ClH
solvent | tetrahydrofuran | 5 mL | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 5 ml | O1CCCC1 | C4H8O
solvent | triethylamine | 0.3 mL | C(C)N(CC)CC | C6H15N
product | N-[3,5-Bis(trifluoromethyl)phenyl]-6-chloro-2-hydroxyindole-3-carboxamide | 172.2 mg, 40.7% | FC(C=1C=C(C=C(C1)C(F)(F)F)NC(=O)C1=C(NC2=CC(=CC=C12)Cl)O)(F)F | C17H9ClF6N2O2
